US05158948
Step 4: 4-Methoxy-3-(methylthio)phenylacetyl chloride
To a solution of 4-methoxy-3-(methylthio)phenylacetic acid (10.2 g, 47.3 mmol) in THF (300 mL) was added oxalyl chloride (6.6 g, 52 mmol, 1.1 equivalent) followed by a catalytic amount of N,N-dimethylformamide (DMF) (~0.5 mL). The reaction mixture was stirred at ambient temperature for 3 h and then concentrated under reduced pressure to give the title compound as a yellow oil. The product was used without purification.

reactant | 4-methoxy-3-(methylthio)phenylacetic acid | 47.3 mmol, 10.2 g | COC1=C(C=C(C=C1)CC(=O)O)SC | C10H12O3S
reactant | oxalyl chloride | 52 mmol, 6.6 g, 1.1 equivalent | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | ~0.5 mL | CN(C=O)C | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(methylthio)phenylacetyl chloride | COC1=C(C=C(C=C1)CC(=O)Cl)SC | C10H11ClO2S
